US06888032B2
3,5-Dimethylbenzonitrile
An oven dried 100 mL three necked round bottom flask was charged, under positive pressure of argon, with NaCN (2.04 g, 41.6 mmol) CuI (660 mg, 3.47 mmol, 10 mol %), KI (1.14 g, 6.87 mmol, 20 mol %), and anhydrous toluene (25 mL). N,N′-Dimethylethylenediamine (3.7 μL, 35 mmol) and 5-bromo-m-xylene (4.7 mL, 35 mmol) were added dropwise under mechanical stirring. The reaction mixture was stirred at 110° C. for 24 h. The resulting suspension was allowed to reach room temperature, diluted with 30% aq ammonia (20 mL) and extracted with toluene (2×10 mL). The combined organic phases were dried over MgSO4, concentrated, and the residue was purified by distillation under reduced pressure (bp 100° C. @ 10 Torr) to provide the desired product as a white crystalline solid (4.08 g, 90% yield). Mp 42-43° C. (lit. 42.9° C., See Birch, S. F.; Dean, R. A.; Fidler, F. A.; Lowry, R. A. J. Am. Chem. Soc. 1949, 71, 1362). 1H NMR (400 MHz, CDCl3; lit. See Nomura, Y.; Takeuchi, Y. Tetrahedron 1969, 25, 3825): δ 7.27 (s, 2H), 7.23 (s, 1H), 2.36 (s, 6H); 13C NMR (100 MHz, CDCl3): 139.4, 135.0, 130.1, 119.7, 112.4, 21.5; IR (neat, cm−1): 2230, 1605, 1378, 907, 854, 682. Anal. Calcd. for C9H9N: C, 82.41; H, 6.92; N, 10.68. Found: C, 82.1 1; H, 6.88; N, 10.52.

reactant | NaCN | 41.6 mmol, 2.04 g | [C-]#N.[Na+]
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
reactant | N,N′-Dimethylethylenediamine | 35 mmol, 3.7 μL | CNCCNC | C4H12N2
reactant | 5-bromo-m-xylene | 35 mmol, 4.7 mL | BrC=1C=C(C=C(C1)C)C | C8H9Br
solvent | ammonia | 20 mL | N | H3N
product | 3,5-Dimethylbenzonitrile | 4.08 g, 90% yield | CC=1C=C(C#N)C=C(C1)C | C9H9N
